US07632838B2
Sulfonylation of 1-(4-fluoro-2-(trifluoromethyl)phenyl)piperazine (386 mg, 1.55 mmol) with 4-chlorobenzene-1-sulfonyl chloride (328.2 mg, 1.555 mmol) was carried out according to the representative sulfonation procedure described in Example 1 using anhydrous dichloromethane (3 mL) as solvent and diisopropylethylamine (1.35 mL, 7.775 mmol) as base. 1-[(4-chlorophenyl)sulfonyl]-4-[4-fluoro-2-(trifluoromethyl)phenyl]piperazine was obtained in 69.2% yield (455 mg) as white solid.

reactant | 1-(4-fluoro-2-(trifluoromethyl)phenyl)piperazine | 1.55 mmol, 386 mg | FC1=CC(=C(C=C1)N1CCNCC1)C(F)(F)F | C11H12F4N2
reactant | 4-chlorobenzene-1-sulfonyl chloride | 1.555 mmol, 328.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | diisopropylethylamine | 7.775 mmol, 1.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-[(4-chlorophenyl)sulfonyl]-4-[4-fluoro-2-(trifluoromethyl)phenyl]piperazine | 69.2% yield | ClC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=C(C=C1)F)C(F)(F)F | C17H15ClF4N2O2S
